US07795262B2
Step 2. Preparation of 2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline
To a sealed tube charged with 6-bromo-2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-1,2,3,4-tetrahydroisoquinoline (3.01 g, 10.3 mmol), bis(pinacolato)diboron (2.88 g, 11.3 mmol, 1.1 eq.), PdCl2dppf.CHCl3 (252 mg, 0.309 mmol, 0.03 eq.) and KOAc (3.04 g, 30.9 mmol, 3.0 eq.) is added anhydrous dioxane (65 ml). The mixture is degassed with nitrogen for 5 min. The tube is sealed and heated at 85° C. overnight. The mixture is cooled to rt and filtered through Celite. The Celite bed is washed with EtOAc, and the combined organics are concentrated. The crude product is purified by silica gel chromatography eluting with EtOAc/NEt3 (95:5) to yield the title compound. MS (+VE) m/z 440.51 (M++1).

reactant | 6-bromo-2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-1,2,3,4-tetrahydroisoquinoline | 10.3 mmol, 3.01 g | BrC=1C=C2CCN(CC2=CC1)CC(=O)N1CCN(CC1)C1CCC1 | C19H26BrN3O
reactant | bis(pinacolato)diboron | 11.3 mmol, 2.88 g, 1.1 eq. | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | CHCl3 | 0.309 mmol, 252 mg, 0.03 eq. | C(Cl)(Cl)Cl | CHCl3
reactant | KOAc | 30.9 mmol, 3.04 g, 3.0 eq. | CC(=O)[O-].[K+]
solvent | dioxane | 65 ml | O1CCOCC1 | C4H8O2
product | 2-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroisoquinoline | C1(CCC1)N1CCN(CC1)C(CN1CC2=CC=C(C=C2CC1)B1OC(C(O1)(C)C)(C)C)=O | C25H38BN3O3
